US06627630B1
In 25 mL of N-methyl-2-pyrrolidinone were dissolved 17.0 g of 4-(diphenylmethoxy)-1-piperidinepropaneamine and 7.39 g of ethyl 2-(6-chloro-3-methylimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate, and stirred at 160° C. for 8.5 hours. After cooling, a water was added and extracted with ethyl acetate. The extract was washed with a saturated brine solution and dried over magnesium sulfate. Following to concentration under reduced pressure. The residue was subjected to silica gel column chromatography to be eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected and concentrated to yield 10.4 g of ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]-3-methylimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate as an oily material. In 100 mL of ethanol was dissolved this oily material, and 18.3 mL of a 5N aqueous sodium hydroxide solution was added thereto and heated under reflux for 2 hours. After cooling, the mixture was concentrated under reduced pressure. The residue was diluted with water and washed with diisopropyl ether. The aqueous layer was adjusted to pH 5 by the addition of 5N hydrochloric acid. The crystals formed were collected by filtration, recrystallized from methanol-water (10:1), and dried to yield 4.09 g (of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropaneamine | 17.0 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | ethyl 2-(6-chloro-3-methylimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 7.39 g | ClC=1C=CC=2N(N1)C(=C(N2)C(C(=O)OCC)(C)C)C | C13H16ClN3O2
reactant | water | O | H2O
solvent | N-methyl-2-pyrrolidinone | 25 mL | CN1C(CCC1)=O | C5H9NO
product | ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]-3-methylimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 10.4 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C(=C(N2)C(C(=O)OCC)(C)C)C)C2=CC=CC=C2 | C34H43N5O3
